US08664220B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-methanol
Prepared according to the procedure described in Example 30, Step 1, using 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 2-phenyl-[1,3,4]oxadiazole.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 2-phenyl-[1,3,4]oxadiazole | C1(=CC=CC=C1)C=1OC=NN1 | C8H6N2O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-methanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1OC(=NN1)C1=CC=CC=C1 | C19H14BrN3O3
